*.TF  This is an analysis mode that finds the DC small signal transfer function of a node voltage
*or branch current due to small variations of an independent source
*.TF Trabaja en DC por ende los capacitores se comportan como un circuito abierto
*Y los inductores como un corto circuito
*-----------------------------------------------------------------------------
*Circuit
*-----------------------------------------------------------------------------
VS in 0 {p_vs}
R1 in out {p_r1}
R2 out 0 {p_r2}
*-----------------------------------------------------------------------------
*PARAMETERS
*-----------------------------------------------------------------------------
.param p_vs 4
.param p_r1	1
.param p_r2 3

*.tran 3ms


.TF V(out,0) Vs
.END
